US05616586
9-Bromo-5-(N-hydroxy-phenylcarbamoylmethyl)-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione
A procedure similar to that described in Example 5 was carried out with 9-bromo-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione (150 mg, 0.44 mmol) and N-phenylhydroxylamine (80 mg, 0.73 mmol) to give 50 mg of the title compound (26%) after silica gel column chromatography with 2% acetic acid/ethyl acetate: mp>270° C.; 1H NMR (270 MHz, DMSO-d6) δ12.04 (s, 1H), 10.01 (s, 1H), 7.56 (d, 2H, J=7.9 Hz), 7.30 (t, 2H, J=7.9 Hz), 7.24 (d, 1H, J=2 Hz), 7.17 (d, 1H, J=2 Hz), 7.05 (t, 1H, J=7.4 Hz), 5.17~5.26 (m, 1H), 3.06 (ddd, 1H, J=17.1, 13.5, 4.5 Hz), 2.83 (dm, 1H, J=17.1 Hz), 2.58~2.62 (m, 2H), 2.09 (dm, 1H, J=13.5 Hz), 1.81~1.95 (m, 1H).

reactant | 9-bromo-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 0.44 mmol, 150 mg | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(=O)O | C13H11BrN2O4
reactant | N-phenylhydroxylamine | 0.73 mmol, 80 mg | C1(=CC=CC=C1)NO | C6H7NO
solvent | acetic acid ethyl acetate | C(C)(=O)O.C(C)(=O)OCC
product | 9-Bromo-5-(N-hydroxy-phenylcarbamoylmethyl)-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 50 mg, 26% | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(N(O)C2=CC=CC=C2)=O | C19H16BrN3O4
